US07179801B2
To a suspension of lithium aluminum hydride (3.01 g) in tetrahydrofuran (150 ml) was added 1-ethyl-5-(tritylamino)-1H-pyrazole-4-carbonitrile (7.5 g) at room temperature. The mixture was refluxed for 55 hours. After cooling on an ice bath, sodium fluoride (13.3 g) and water (6 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. The filtrate was evaporated to give 4-aminomethyl-1-ethyl-5-tritylaminopyrazole (3.4 g).

reactant | lithium aluminum hydride | 3.01 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-ethyl-5-(tritylamino)-1H-pyrazole-4-carbonitrile | 7.5 g | C(C)N1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C#N | C25H22N4
reactant | sodium fluoride | 13.3 g | [F-].[Na+]
reactant | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-aminomethyl-1-ethyl-5-tritylaminopyrazole | 3.4 g | NCC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC | C25H26N4
